US09290451B2
a) 5-Methyl-2-pyridinecarboxylic acid 1-oxide
m-CPBA (CAN 937-14-4, 5.0 g, 29.2 mmol) was added to a solution of 5-methyl-pyridine-2-carboxylic acid (CAN 4434-13-3, 2.0 g, 14.6 mmol) in methylene chloride (50 mL) and the mixture was stirred overnight at room temperature. The solid was filtered off, quenched with a saturated solution of sodium thiosulfate (50 mL), and the mixture was extracted with methylene chloride (3×60 mL). The organic layers were combined, dried over anhydrous sodium sulfate and concentrated in vacuo to give yellow solid which was washed with ether (5×20 mL) to give the product (0.9 g, 40.3%); MS (EI): m/e=154.1 [M+H]+.

reactant | m-CPBA | 29.2 mmol, 5.0 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | 5-methyl-pyridine-2-carboxylic acid | 14.6 mmol, 2.0 g | CC=1C=CC(=NC1)C(=O)O | C7H7NO2
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | 5-Methyl-2-pyridinecarboxylic acid 1-oxide | 0.9 g, 40.3% | CC1=CC=C([N+](=C1)[O-])C(=O)O | C7H7NO3
